US04737497
dl-1-(4-Thiomorpholinomethyl-3,5-dioxopiperazin-1-yl)-2-(3,5-dioxopiperazin-1-yl)-propane
Water (30 ml) was added to dl-1,2-bis(4-thiomorpholinomethyl-3,5-dioxopiperazin-1-yl)-propane (0.6 g) and the suspension thus obtained was stirred at room temperature for 5 hours. Then, the precipitates thus obtained were collected and were dried under a reduced pressure. Chloroform (10 ml) was added to the dried precipitates and the whole was stirred at room temperature for 20 minutes, then was filtered. The filtration residue was dried under a reduced pressure to give the titled compound (0.2 g; yield 43%).

reactant | 1,2-bis(4-thiomorpholinomethyl-3,5-dioxopiperazin-1-yl)-propane | 0.6 g | S1CCN(CC1)CN1C(CN(CC1=O)CC(C)N1CC(N(C(C1)=O)CN1CCSCC1)=O)=O | C21H34N6O4S2
solvent | Water | 30 ml | O | H2O
product | 1-(4-Thiomorpholinomethyl-3,5-dioxopiperazin-1-yl)-2-(3,5-dioxopiperazin-1-yl)-propane | 0.2 g, yield 43% | S1CCN(CC1)CN1C(CN(CC1=O)CC(C)N1CC(NC(C1)=O)=O)=O | C16H25N5O4S
